US07989444B2
2-Ethyl-7-(3-{[4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 rom 2-ethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (0.28 mmol) and 3-[(3-chloropropyl)thio]-4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazole and was obtained as a faint yellow slightly hygroscopic solid (0.07 mmol).

reactant | 2-ethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 0.28 mmol | C(C)C=1OC2=CC3=C(CCNCC3)C=C2N1 | C13H16N2O
reactant | 3-[(3-chloropropyl)thio]-4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazole | ClCCCSC1=NN=C(N1C)C1=C(N=CO1)C | C10H13ClN4OS
product | 2-Ethyl-7-(3-{[4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.C(C)C=1OC2=CC3=C(CCN(CC3)CCCSC3=NN=C(N3C)C3=C(N=CO3)C)C=C2N1 | InChI=1S/C23H28N6O2S.ClH/c1-4-20-25-18-12-16-6-9-29(10-7-17(16)13-19(18)31-20)8-5-11-32-23-27-26-22(28(23)3)21-15(2)24-14-30-21;/h12-14H,4-11H2,1-3H3;1H
